US07742112B2
In a 100 ml four-necked flask, 2.79 g (42.3 mM) of 85 wt % potassium hydroxide was suspended in 30 ml of dimethylformamide, and 10 ml of a dimethylformamide solution containing 5.28 g (43.2 mM) of hydroxybenzaldehyde was added thereto dropwise while maintaining the system at 20° C. or lower, followed by aging at 30° C. for 1 hour. To the system was added 9.58 g (32.9 mM) of 1-bromopentadecane, followed by aging at 70° C. for 21 hours. The reaction mixture was dispersed in water and extracted with toluene. The extract was washed with water and concentrated to give 11.03 g of a slightly colored viscous liquid. Recrystallization from hexane gave 8.91 g of p-pentadecanoxybenzaldehyde (purity: 98.3%).

reactant | potassium hydroxide | [OH-].[K+]
reactant | hydroxybenzaldehyde | 43.2 mM, 5.28 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | 1-bromopentadecane | 32.9 mM, 9.58 g | BrCCCCCCCCCCCCCCC | C15H31Br
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | p-pentadecanoxybenzaldehyde | 8.91 g | C(CCCCCCCCCCCCCC)OC1=CC=C(C=O)C=C1 | C22H36O2
